US06458968B2
A mixture of benzoic acid (1.22 g), 1-propanethiol (0.76 g) and phosphorus pentasulfide (4.44 g) in toluene (40 ml) was refluxed for 10 h. A dark red color was developed immediately after heating. After the reaction was complete (as monitored by GC-MS), it was cooled to room temperature and purified by a column chromatography packed with neutral alumina, eluting with benzene. Removal of the solvent by distillation gave the single compound, propyl dithiobenzoate (1.21 g, 62%). It was further characterized by 1H and 13C-NMR.

reactant | benzoic acid | 1.22 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-propanethiol | 0.76 g | C(CC)S | C3H8S
reactant | phosphorus pentasulfide | 4.44 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | propyl dithiobenzoate | 1.21 g, 62% | C(C1=CC=CC=C1)(=S)SCCC | C10H12S2
